US08049013B2
Step 6: 3-(4-{[2-(4-Chloro-phenyl)-4-(2-hydroxy-ethyl)-thiazole-5-carbonyl]-amino}-2-methoxy-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester
Charge to a flask under an inert atmosphere a 2 M THF solution of lithium borohydride (1140 mL, 2280 mmol) and apply ice bath cooling. Meanwhile in a separate vessel dissolve 3-(4-{[2-(4-chloro-phenyl)-4-methoxycarbonylmethyl-thiazole-5-carbonyl]-amino}-2-methoxy-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester (2058 g, 3500 mmol) in THF (12.35 L). Agitate until complete dissolution is obtained. Transfer this solution to an addition funnel and begin the slow stream addition to the reducing agent. Once the addition is complete, remove the ice bath and stir for 30-90 min. Quench the reaction by adding acetone (407 g, 7008 mmol). Stir at ambient temperature for 30 min and add ethyl acetate (8230 mL) with water (8230 mL). Separate the layers and wash the upper organic layer a second time with water (8230 mL) followed by 5% brine (8230 mL). Distill off the solvent until <5% solvent composition is THF, by adding EtOAc as needed. Reduce the volume of the slurry to 6200 mL and add heptane (2050 mL). Allow the slurry to slowly cool back to room temperature, filter the precipitate, wash with 1:1 heptane/ethyl acetate and dry to constant weight in a vacuum oven at 40° C. to obtain the title compound (88%). ES/MS m/z (35Cl) 560 [M+1]+.

reactant | lithium borohydride | 2280 mmol, 1140 mL | [BH4-].[Li+]
reactant | 3-(4-{[2-(4-chloro-phenyl)-4-methoxycarbonylmethyl-thiazole-5-carbonyl]-amino}-2-methoxy-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester | 3500 mmol, 2058 g | C(C)(C)(C)OC(=O)N1CC(C1)OC1=C(C=C(C=C1)NC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)CC(=O)OC)OC | C28H30ClN3O7S
reactant | acetone | 7008 mmol, 407 g | CC(=O)C | C3H6O
reactant | ethyl acetate | 8230 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 12.35 L | C1CCOC1 | C4H8O
solvent | THF | 2 M | C1CCOC1 | C4H8O
solvent | water | 8230 mL | O | H2O
product | 3-(4-{[2-(4-Chloro-phenyl)-4-(2-hydroxy-ethyl)-thiazole-5-carbonyl]-amino}-2-methoxy-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester | 88% | C(C)(C)(C)OC(=O)N1CC(C1)OC1=C(C=C(C=C1)NC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)CCO)OC | C27H30ClN3O6S
